US04386100
Sulphuryl chloride (16.0 ml.) was added during 10 minutes to a stirred mixture of 1'-(3,4-dichlorobenzyl)-spiro[imidazolidine-4,3'-indoline]-2,2',5-trione (28.2 g.) in acetic acid (400 ml.). The mixture obtained was then stirred at 60°-65° C. for 40 minutes. The clear solution which formed was poured into water (3 l.). The solid which was precipitated was collected by filtration, washed with water and air-dried. Recrystallisation of the crude solid thus obtained from aqueous propan-2-ol gave 5'-chloro-1'-(3,4-dichlorobenzyl)-spiro[imidazolidine-4,3'-indoline]-2,2',5-trione (15.4 g.), m.p. 257°-259° C.

reactant | Sulphuryl chloride | 16.0 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 1'-(3,4-dichlorobenzyl)-spiro[imidazolidine-4,3'-indoline]-2,2',5-trione | 28.2 g | ClC=1C=C(CN2C(C3(C4=CC=CC=C24)NC(NC3=O)=O)=O)C=CC1Cl | C17H11Cl2N3O3
reactant | water | 3 l | O | H2O
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
product | 5'-chloro-1'-(3,4-dichlorobenzyl)-spiro[imidazolidine-4,3'-indoline]-2,2',5-trione | 15.4 g | ClC=1C=C2C3(C(N(C2=CC1)CC1=CC(=C(C=C1)Cl)Cl)=O)NC(NC3=O)=O | C17H10Cl3N3O3
